US06433167B1
(2) Synthesis of 4-[3-(3-Pyridylcarbonyl)phenyl]butyric Acid
4-(3-bromophenyl)butanol and 3-pyridylaldehyde were reacted to synthesize 4-[3-(3-pyridylcarbonyl)phenyl]butanol, then the resultant product was oxidized by a similar method as in Example 2(3) to synthesize the desired compound.

reactant | 4-(3-bromophenyl)butanol | BrC=1C=C(C=CC1)CCCCO | C10H13BrO
reactant | 4-[3-(3-pyridylcarbonyl)phenyl]butanol | N1=CC(=CC=C1)C(=O)C=1C=C(C=CC1)CCCCO | C16H17NO2
product | 4-[3-(3-Pyridylcarbonyl)phenyl]butyric Acid | N1=CC(=CC=C1)C(=O)C=1C=C(C=CC1)CCCC(=O)O | C16H15NO3
